US05858272
2-Propyl-1,3-propanediol (138.0 g; 1.17 mol) and 3-fluorobenzaldehyde (138.0 g; 1.11 mol) were dissolved in toluene (1.5 liters), and PTS (7 g) was added. The mixture was refluxed for 3 hours while being dehydrated with a Dean-Stark's device. The resultant reaction mixture was washed sequentially with saturated sodium bicarbonate solution and saturated brine, and then dried over magnesium sulfate. Subsequently, the solvent was evaporated. The residue was recrystallized twice from heptane, to thereby obtain 81.2 g (362 mmol) of 5-propyl-2-(3-fluorophenyl)-1,3-dioxane. The yield of the compound from 3-fluorobenzaldehyde was 32.6%.

reactant | 2-Propyl-1,3-propanediol | 1.17 mol, 138.0 g | C(CC)C(CO)CO | C6H14O2
reactant | 3-fluorobenzaldehyde | 1.11 mol, 138.0 g | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | toluene | 1.5 liters | C1(=CC=CC=C1)C | C7H8
product | 5-propyl-2-(3-fluorophenyl)-1,3-dioxane | 362 mmol, 81.2 g | C(CC)C1COC(OC1)C1=CC(=CC=C1)F | C13H17FO2
